US06555577B1
(Z)-(S)-Ethyl 3-{4-[3-(4-Bromophenyl)-2-methyl-but-2-enyloxy]-phenyl}-2-ethoxy-propionate
The title compound (0.91 g, 95% yield) was prepared from (Z)-3-(4-bromophenyl)-2-methyl -but-2-en-1-ol (0.50 g, 2.07 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.519 g, 2.18 mmol) by a procedure analogous to that described in example 52c.

reactant | (Z)-3-(4-bromophenyl)-2-methyl -but-2-en-1-ol | 2.07 mmol, 0.50 g | BrC1=CC=C(C=C1)\C(=C(/CO)\C)\C | C11H13BrO
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.18 mmol, 0.519 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (Z)-(S)-Ethyl 3-{4-[3-(4-Bromophenyl)-2-methyl-but-2-enyloxy]-phenyl}-2-ethoxy-propionate | 0.91 g, 95% yield | BrC1=CC=C(C=C1)\C(=C(/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)\C)\C | C24H29BrO4
